US04010177
In the manner given in Example 1, 8-chloro-1-[[(cyclopropylmethyl)methylamino]methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated in formic acid with aqueous formaldehyde to give 5-chloro-2-[3-[[(cyclopropylmethyl)methylamino]methyl]-5-](dimethylamino)methyl]-4-H-1,2,4-triazol-4-yl]benzophenone. This product is identical to that given in Example 21.

reactant | 8-chloro-1-[[(cyclopropylmethyl)methylamino]methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)CC3CC3)C3=CC=CC=C3)C1 | C22H22ClN5
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
